US06881733B1
Methyl 1-tert-butoxycarbonyl-4-oxo-3-piperidinecarboxylate
A mixture of 20 gm (103.3 mMol) methyl 4-oxo-3-piperidinecarboxylate hydrochloride and 75 mL saturated aqueous sodium bicarbonate in 150 mL dichloromethane was stirred vigorously at room temperature. A solution of 24.8 gm (113.6 mMol) di-tert-butyl dicarbonate in 100 mL dichloromethane was then added dropwise over three hours. After stirring at room temperature for about 16 hours, an additional 3.0 gm di-tert-butyl dicarbonate were added and stirring continued for an additional 2 hours. The reaction mixture was then diluted with water and extracted with 2×250 mL dichloromethane. The organic phases were combined, dried over magnesium sulfate, and concentrated under reduced pressure to provide 26.2 gm (99%) of the desired compound as a yellow oil.

reactant | methyl 4-oxo-3-piperidinecarboxylate hydrochloride | 103.3 mMol, 20 gm | Cl.O=C1C(CNCC1)C(=O)OC
reactant | sodium bicarbonate | 75 mL | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 113.6 mMol, 24.8 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 3.0 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Methyl 1-tert-butoxycarbonyl-4-oxo-3-piperidinecarboxylate | 26.2 gm, 99% | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C(=O)OC | C12H19NO5
